US08476434B2
Synthesis of N-(3-methyl-4-((3-(2-((4-(4-methyl-1-piperazinyl)phenyl)amino)-4-pyrimidinyl)-2-pyridinyl)oxy)phenyl)-3-(trifluoromethyl)benzamide
To 4-(2-chloropyridin-3-yl)-N-(4-(4-methylpiperazin-1-yl)phenyl)pyrimidin-2-amine (35 mg, 0.092 mmol), N-(4-hydroxy-3-methylphenyl)-3-(trifluoromethyl)benzamide (27 mg, 0.092 mmol) and Cs2CO3 (60 mg, 0.18 mmol) was added DMSO (0.6 mL). The mixture was heated overnight at 130° C. The crude material was purified by reverse-phase HPLC (Gilson, acidic mobile phase) to yield the title compound as a light yellow solid after aqueous workup. MS m/z=640 [M+1]+ Calc'd for C35H32F3N7O2: 639.69.

reactant | 4-(2-chloropyridin-3-yl)-N-(4-(4-methylpiperazin-1-yl)phenyl)pyrimidin-2-amine | 0.092 mmol, 35 mg | ClC1=NC=CC=C1C1=NC(=NC=C1)NC1=CC=C(C=C1)N1CCN(CC1)C | C20H21ClN6
reactant | N-(4-hydroxy-3-methylphenyl)-3-(trifluoromethyl)benzamide | 0.092 mmol, 27 mg | OC1=C(C=C(C=C1)NC(C1=CC(=CC=C1)C(F)(F)F)=O)C | C15H12F3NO2
reactant | Cs2CO3 | 0.18 mmol, 60 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMSO | 0.6 mL | CS(=O)C | C2H6OS
product | N-(3-methyl-4-((3-(2-((4-(4-methyl-1-piperazinyl)phenyl)amino)-4-pyrimidinyl)-2-pyridinyl)oxy)phenyl)-3-(trifluoromethyl)benzamide | CC=1C=C(C=CC1OC1=NC=CC=C1C1=NC(=NC=C1)NC1=CC=C(C=C1)N1CCN(CC1)C)NC(C1=CC(=CC=C1)C(F)(F)F)=O | C35H32F3N7O2
